US09056859B2
A mixture of tert-butyl ethyl (5-nitropyrazin-2-yl)propanedioate (10.7 g, 34.4 mmol) in 30 mL of TFA and 30 mL DCM was stirred at 35° C. for 3 hours before concentrated to dryness. The residue was dissolved in 200 mL of EtOAc and washed with water (25 mL) and brine (25 mL), dried over anhydrous Na2SO4 and concentrated to afford ethyl (5-nitropyrazin-2-yl)acetate.

reactant | tert-butyl ethyl (5-nitropyrazin-2-yl)propanedioate | 34.4 mmol, 10.7 g | [N+](=O)([O-])C=1N=CC(=NC1)C(C(=O)OC(C)(C)C)C(=O)OCC | C13H17N3O6
solvent | TFA | 30 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | ethyl (5-nitropyrazin-2-yl)acetate | [N+](=O)([O-])C=1N=CC(=NC1)CC(=O)OCC | C8H9N3O4
